US07569589B2
To a solution of 3-(pyridine-3-ylmethyl)pyridine (2.5 g, 14.69 mmol) in anhydrous THF (75 mL) under N2. The mixture was cooled to −78° C. and LDA (12.24 mL, 1.8 M) was added dropwise. The mixture was stirred @ −78° C. for 1 hr and 2-bromo-6-[chloro(4-fluorophenyl)methyl]pyridine (4.64 g, 15.42 mmol) was added. The mixture was warmed to 0° C. and stirred for 2 hr. The reaction was quenched with saturated aqueous NH4Cl and extracted 3× with EtOAc. The combined organics were dried (anhd. Na2SO4) filtered, and concentrated. The resulting residue was purified by silica gel chromatography (1-3% MeOH in CH2Cl2) to give 2-bromo-6-[1-(4-fluorophenyl)-2,2-dipyridin-3-ylethyl]pyridine. 1H NMR (500 MHz, CDCl3) δ 8.55 (d, 1H, J=2.0), 8.45 (d, 1H, J=2.0), 8.35-8.29 (m, 2H), 7.60 (dt, 1H, J=7.9, 1.9), 7.49 (dt, 1H, J=7.9, 1.9), 7.35-7.24 (m, 3H), 7.17 (d, 1H, J=7.8), 7.14-7.07 (m, 2H), 7.05 (d, 1H, J=7.6), 6.86 (t, 2H, J=8.7), 5.13 (d, 1H, J=12.2), 4.78 (d, 1H, J=12.0) LRMS m/z (M+H) Calcd.: 434.0, found: 434.0. The racemic mixture was separated by ChiralPak AD (30% iPrOH in Hexane+DEA 1 mL/L). The first peak was enantiomer A of 2-bromo-6-[1-(4-fluorophenyl)-2,2-dipyridin-3-ylethyl]pyridine; HRMS m/z (M+H) Calcd.: 434.0663, found: 434.0648. And the second peak was enantiomer B of 2-bromo-6-[1-(4-fluorophenyl)-2,2-dipyridin-3-ylethyl]pyridine; HRMS m/z (M+H) Calcd.: 434.0633, found: 434.0646.

reactant | 3-(pyridine-3-ylmethyl)pyridine | 14.69 mmol, 2.5 g | N1=CC(=CC=C1)CC=1C=NC=CC1 | C11H10N2
reactant | LDA | 1.8 M, 12.24 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromo-6-[chloro(4-fluorophenyl)methyl]pyridine | 15.42 mmol, 4.64 g | BrC1=NC(=CC=C1)C(C1=CC=C(C=C1)F)Cl | C12H8BrClFN
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-bromo-6-[1-(4-fluorophenyl)-2,2-dipyridin-3-ylethyl]pyridine | BrC1=NC(=CC=C1)C(C(C=1C=NC=CC1)C=1C=NC=CC1)C1=CC=C(C=C1)F | C23H17BrFN3
